US07163947B2
A suspension of 2-ethoxy-N-{4-[(morpholin-4-yl)amino]quinolin-3-yl}acetamide (5.35 g, 16.2 mmol) in 65 mL of toluene was treated with pyridine hydrochloride (0.94 g g, 0.081 mmol). The reaction flask was equipped with a Dean-Stark trap and the reaction mixture was heated to reflux under an atmosphere of nitrogen. After 2.5 d, the reaction mixture was concentrated under reduced pressure to yield a brown oil. The oil was dissolved in CHCl3 and was washed with 5% Na2CO3 solution, water and brine, dried over Na2SO4, filtered and concentrated under reduced pressure to yield a brown foam. Chromatography (SiO2, 95:5 CHCl3:MeOH) gave 2-ethoxymethyl-1-(morpholin-4-yl)-1H-imidazo[4,5-c]quinoline (1.61 g) as a light brown solid.

reactant | 2-ethoxy-N-{4-[(morpholin-4-yl)amino]quinolin-3-yl}acetamide | 16.2 mmol, 5.35 g | C(C)OCC(=O)NC=1C=NC2=CC=CC=C2C1NN1CCOCC1 | C17H22N4O3
reactant | pyridine hydrochloride | 0.081 mmol, 0.94 g | Cl.N1=CC=CC=C1
reactant | MeOH | CO | CH4O
solvent | toluene | 65 mL | C1(=CC=CC=C1)C | C7H8
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 2-ethoxymethyl-1-(morpholin-4-yl)-1H-imidazo[4,5-c]quinoline | 1.61 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)N1CCOCC1 | C17H20N4O2
